US07173031B2
A) 6-(Pyridin-3-yl)pyrrolo[2,1-f][1,2,4]triazin-4-ol
A solution of 6-bromopyrrolo[2,1-f][1,2,4]triazin-4-ol (100 mg, 0.47 mmol, prepared from methyl 4-bromo-1H-pyrrole-2-carboxylate: see, generally, Kitamura, C. and Yamashita, Y. J. Chem. Soc. Perkin Trans. 1, 1997, 1443, the disclosure of which is herein incorporated by reference, using a similar procedure outlined in the PCT Appl. WO 00/71129) and pyridin-3-ylboronic acid (172 mg, 1.40 mmol) in 2 mL of DMF and 2 mL of saturated aqueous K2CO3 was degassed and then Pd(PPh3)4 (57 mg, 0.05 mmol) was added. The mixture was then heated to 120° C. for 3 h. LC-MS analysis indicated the disappearance of starting material. The mixture was cooled down and the solution was filtered. The filtrate was purified on preparative HPLC to afford the title compound (100 mg, 65%) as a TFA salt. MS(ESI+) m/z 213.2 (M+H)+.

reactant | 6-bromopyrrolo[2,1-f][1,2,4]triazin-4-ol | BrC=1C=C2C(=NC=NN2C1)O | C6H4BrN3O
reactant | methyl 4-bromo-1H-pyrrole-2-carboxylate | BrC=1C=C(NC1)C(=O)OC | C6H6BrNO2
reactant | pyridin-3-ylboronic acid | 1.40 mmol, 172 mg | N1=CC(=CC=C1)B(O)O | C5H6BNO2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | K2CO3 | 2 mL | C(=O)([O-])[O-].[K+].[K+]
catalyst | Pd(PPh3)4 | 0.05 mmol, 57 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-(Pyridin-3-yl)pyrrolo[2,1-f][1,2,4]triazin-4-ol | 100 mg, 65% | N1=CC(=CC=C1)C=1C=C2C(=NC=NN2C1)O | C11H8N4O
